US05663164
142 mg of 1,1-dimethylethyl-7-[2-(2-tritylamino thiazol -4-yl)-2-methoxyimino-acetamido]-3-formyl-8-oxo-4-thia-1-aza-bicyclo[4,2,0]oct-2-en-2-carboxylate, 60 mg of semi-carbazide hydrochloride and 0.8 ml of dimethylformamide were mixed together and after one hour and thirty minutes, 10 ml of Water were added followed by extraction with ethyl acetate. The organic phases were dried, and concentrated to dryness. The residue was dissolved in ethanol and after allowing crystallization for 45 minutes and separating, 113 mg of 1,1-dimethylethyl 7-[2-(2-tritylamino-thiazol-4-yl)-2-methoxyimino-acetamido]-3-[(aminocarbonyl) -hydrazo-nomethyl]4-oxo-4-thia-1-azabicyclo[4,2,0]oct-2-en-2-carboxylate were obtained.

reactant | 1,1-dimethylethyl-7-[2-(2-tritylamino thiazol -4-yl)-2-methoxyimino-acetamido]-3-formyl-8-oxo-4-thia-1-aza-bicyclo[4,2,0]oct-2-en-2-carboxylate | 142 mg | CC(C)(C)C1SC(=C(N2C(C(C12)NC(C(=NOC)C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O)C(=O)[O-])C=O
reactant | semi-carbazide hydrochloride | 60 mg | Cl.NNC(=O)N
reactant | dimethylformamide | 0.8 ml | CN(C=O)C | C3H7NO
reactant | Water | 10 ml | O | H2O
product | 1,1-dimethylethyl 7-[2-(2-tritylamino-thiazol-4-yl)-2-methoxyimino-acetamido]-3-[(aminocarbonyl) -hydrazo-nomethyl]4-oxo-4-thia-1-azabicyclo[4,2,0]oct-2-en-2-carboxylate | 113 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)NC1C2CS(C(=C(N2C1)C(=O)OC(C)(C)C)C(=NN)C(=O)N)=O)=NOC | C38H40N8O6S2
